US05286732
STAGE A: 1-Bromo-3,3-dicyclopropylpropane
15.5 g of phosphorus tribromide are slowly added to a solution, cooled to -30° C., of 22 g of 3,3-dicyclopropylpropanol (obtained by reduction of the compound described in preparation A in the presence of lithium aluminum hydride) in 85 ml of anhydrous ether, and the mixture is poured, after returning to room temperature, into 7 ml of ice cold water. The organic phase is then washed with a saturated solution of sodium bicarbonate and then with water until neutral and finally dried and evaporated. The expected product is obtained after distillation under vacuum.

reactant | phosphorus tribromide | 15.5 g | P(Br)(Br)Br | Br3P
reactant | 3,3-dicyclopropylpropanol | 22 g | C1(CC1)C(CCO)C1CC1 | C9H16O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 85 ml | CCOCC | C4H10O
product | 1-Bromo-3,3-dicyclopropylpropane | Yield: 60% | BrCCC(C1CC1)C1CC1 | C9H15Br
